US07838676B2
Methyl 3-bromo-5-(pyridin-2-yl)benzoate (137 mg, 0.47 mmol), 4,4,5,5-tetramethyl-2-(1-phenylvinyl)-1,3,2-dioxaborolane (162 mg, 0.70 mmol), Pd(PPh3)4 (19 mg, 0.023 mmol) and K2CO3 (195 mg, 1.41 mmol) were taken up in DME (5 mL) and water (1 mL) and heated to about 80° C. overnight. The reaction mixture was combined with water and the product was extracted into EtOAc (3×10 mL). The combined organic extracts were washed with water (1×10 mL), brine (1×10 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified via automated flash chromatography (silica gel; 0 to 25% EtOAc in hexanes) to afford methyl 3-(1-phenylvinyl)-5-(pyridin-2-yl)benzoate. MS m/z=316 [M+1]+. Calc'd for C21H17NO2: 315.

reactant | Methyl 3-bromo-5-(pyridin-2-yl)benzoate | 0.47 mmol, 137 mg | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=CC=C1 | C13H10BrNO2
reactant | 4,4,5,5-tetramethyl-2-(1-phenylvinyl)-1,3,2-dioxaborolane | 0.70 mmol, 162 mg | CC1(OB(OC1(C)C)C(=C)C1=CC=CC=C1)C | C14H19BO2
reactant | K2CO3 | 1.41 mmol, 195 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.023 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(1-phenylvinyl)-5-(pyridin-2-yl)benzoate | C1(=CC=CC=C1)C(=C)C=1C=C(C(=O)OC)C=C(C1)C1=NC=CC=C1 | C21H17NO2
